US08217027B2
A solution of 4-isobutylbenzoic acid (0.130 g, 0.728 mmol), EDC (0.139 g, 0.728 mmol) and HOBt hydrate (0.111 g, 0.728 mmol) in DMF (1.0 ml) was stirred at ambient temperature for 1-1.5 hours. To the mixture was added (Z)-N′-hydroxy-4-{(7S)-3-methyl-2,4-dioxo-1,3-diazaspiro[4.4]nonan-7-yl}benzimidamide (0.200 g, 0.662 mmol) as solution in 1.0 ml DMF at ambient temperature. The resulting mixture was heated to about 140° C. for additional 2 hours. Solvent was removed in vacuo. The crude product was purified on a Prep HPLC system using 20-99% 50 mM NH4OAc buffer in acetonitrile at 81 mL/min to afford (7S)-7-(4-(5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl)phenyl)-3-methyl-1,3-diazaspiro[4.4]nonane-2,4-dione (0.062 g, 0.139 mmol) as light brown solid.

reactant | 4-isobutylbenzoic acid | 0.728 mmol, 0.130 g | C(C(C)C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | EDC | 0.728 mmol, 0.139 g
reactant | HOBt hydrate | 0.728 mmol, 0.111 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | (Z)-N′-hydroxy-4-{(7S)-3-methyl-2,4-dioxo-1,3-diazaspiro[4.4]nonan-7-yl}benzimidamide | 0.662 mmol, 0.200 g | O\N=C(\C1=CC=C(C=C1)[C@@H]1CC2(C(N(C(N2)=O)C)=O)CC1)/N | C15H18N4O3
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
product | (7S)-7-(4-(5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl)phenyl)-3-methyl-1,3-diazaspiro[4.4]nonane-2,4-dione | 0.139 mmol, 0.062 g | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(C=C1)[C@@H]1CC2(C(N(C(N2)=O)C)=O)CC1 | C26H28N4O3
